US06503968B1
Preparation of Styrene-butadiene Latex
1.0 wt. parts of rosin salt as an emulsifier was added after 3 hours from the addition of diisopropylbenzene hydroperoxide as an oxidant at an initial reaction step, and thereafter 1.5 wt. parts of rosin salt were added after 8 hours.

reactant | rosin | C1=CC=C(C=C1)/C=C/CO[C@H]2[C@@H]([C@H]([C@@H]([C@H](O2)CO)O)O)O | C15H20O6
reactant | diisopropylbenzene hydroperoxide | [O-]O.C(C)(C)C1=C(C=CC=C1)C(C)C
product | Styrene-butadiene | C=CC=C.C=CC1=CC=CC=C1 | InChI=1S/C8H8.C4H6/c1-2-8-6-4-3-5-7-8;1-3-4-2/h2-7H,1H2;3-4H,1-2H2
